US09376422B2
Step 1: Synthesis of methyl 5-chloro-2-methoxy-3-[methyl(oxan-4-yl)amino]benzoate
To a solution of methyl 5-chloro-2-methoxy-3-[(oxan-4-yl)amino]benzoate (500 mg, 1.67 mmol) in 1,2-dichloroethane (16 ml) at room temperature under nitrogen was added paraformaldehyde (300 mg, 10 mmol) followed by acetic acid (0.57 ml, 10 mmol). This mixture was stirred for 5 minutes before the addition of sodium triacetoxyborohydride (2.12 g, 10 mmol). After stirring for 64 hours deionized water (30 ml) was added and the mixture was neutralized with solid NaHCO3 and the phases were separated. The aqueous layer was extracted with EtOAc (3×15 ml) and the combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by FCC (10 g silica, Isolute cartridge, gradient of eluents; 9:1 Heptane:EtOAc to 7:3 Heptane:EtOAc) to give 431 mg (82%) of the title compound as a colorless oil. LC-MS 98%, m/z=314.0/316.0, 1H NMR (500 MHz, Chloroform-d) δ ppm 7.30 (d, J=2.5 Hz, 1H), 7.04 (d J=2.5 Hz, 1H), 4.00 (dd, J=11.3, 4.3 Hz, 2H), 3.90 (s, 3H), 3.82 (s, 3H), 3.70 (ddt, J=11.7, 7.7, 3.8 Hz, 1H), 3.39 (t, J=11.1 Hz, 2H), 2.71 (s, 3H), 1.84 (qd, J=12.3, 4.6 Hz, 2H), 1.66-1.55 (m, 2H).

reactant | methyl 5-chloro-2-methoxy-3-[(oxan-4-yl)amino]benzoate | 1.67 mmol, 500 mg | ClC=1C=C(C(=C(C(=O)OC)C1)OC)NC1CCOCC1 | C14H18ClNO4
reactant | paraformaldehyde | 10 mmol, 300 mg | C=O | CH2O
reactant | acetic acid | 10 mmol, 0.57 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 10 mmol, 2.12 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 16 ml | ClCCCl | C2H4Cl2
solvent | water | 30 ml | O | H2O
product | methyl 5-chloro-2-methoxy-3-[methyl(oxan-4-yl)amino]benzoate | 431 mg, 82% | ClC=1C=C(C(=C(C(=O)OC)C1)OC)N(C1CCOCC1)C | C15H20ClNO4
